### PR TITLE
[Merged by Bors] - feat(Topology/Sheaves/Functors): pullback of a sheaf by an open embedding

### PR DESCRIPTION
**Pull request by smorel394**
The pullback of a sheaf by an open embedding `f` is isomorphic to its naive pullback , i.e. to the composition by the functor `IsOpenMap.functor f` (sending an open `U` to `f '' U`). Also, this is an isomorphism of functors.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sheaves/Functors.lean [hunk 1]
```diff
@@ -110,3 +110,48 @@ instance : (pushforward A f).IsRightAdjoint := (pullbackPushforwardAdjunction A
...
+  hf.isOpenMap.functor.sheafPushforwardContinuous _ _ _
+
+set_option backward.isDefEq.respectTransparency false in
+/--
+The pullback of a sheaf by an open embedding `f` is isomorphic to its naive pullback
+`IsOpenEmbedding.sheafPullback`, i.e. to the composition by the functor `IsOpenMap.functor f`.
+Also, this is an isomorphism of functors.
+-/
+def sheafPullbackIso : Sheaf.pullback A f ≅ hf.sheafPullback A := by
+  refine Sheaf.pullbackIso A f ≪≫ (NatIso.ofComponents (fun F ↦ ?_) (fun u ↦ ?_))
```
Comment (chrisflav) [inline Mathlib/Topology/Sheaves/Functors.lean]:
```suggestion
  refine Sheaf.pullbackIso A f ≪≫ NatIso.ofComponents (fun F ↦ ?_) (fun u ↦ ?_)
```

File: Mathlib/Topology/Sheaves/Functors.lean [hunk 2]
```diff
@@ -110,3 +110,48 @@ instance : (pushforward A f).IsRightAdjoint := (pullbackPushforwardAdjunction A
...
 
 end TopCat
+
+namespace Topology.IsOpenEmbedding
+
+variable (A : Type*) [Category.{w} A] {FA : A → A → Type*} {CA : A → Type w}
+variable [∀ X Y, FunLike (FA X Y) (CA X) (CA Y)] [ConcreteCategory.{w} A FA] [HasColimits A]
+variable [HasLimits A] [PreservesLimits (CategoryTheory.forget A)]
+variable [PreservesFilteredColimits (CategoryTheory.forget A)]
+variable [(CategoryTheory.forget A).ReflectsIsomorphisms]
```
Comment (chrisflav) [inline Mathlib/Topology/Sheaves/Functors.lean]: Could you please move this just before `sheafPullbackIso`?

File: Mathlib/Topology/Sheaves/Functors.lean [hunk 3]
```diff
@@ -110,3 +110,48 @@ instance : (pushforward A f).IsRightAdjoint := (pullbackPushforwardAdjunction A
...
+      (TopCat.Presheaf.isSheaf_of_isOpenEmbedding hf F.2)).symm
+  · dsimp
+    rw [← Functor.map_comp_assoc, hf.isOpenMap.pullbackIso.hom.naturality, Sheaf.hom_ext_iff]
+    simp only [Functor.whiskeringLeft_obj_obj, Functor.whiskeringLeft_obj_map, Functor.map_comp,
+      isoSheafify_inv, Category.assoc]
+    rw [Sheaf.comp_val, Sheaf.comp_val, Sheaf.comp_val, Sheaf.comp_val]
+    dsimp [sheafPullback, Functor.sheafPushforwardContinuous, Sheaf.forget]
+    simp only [sheafifyMap_sheafifyLift, sheafifyMap_sheafifyLift_assoc]
+    refine (sheafifyLift_unique _ _ _ _ ?_).symm
+    cat_disch
```
Comment (chrisflav) [inline Mathlib/Topology/Sheaves/Functors.lean]: Could you please add (you will be able to remove most of the arguments):
```
lemma CategoryTheory.sheafifyLift_comp {C : Type*} [Category* C] (J : GrothendieckTopology C)
    {D : Type u_1} [Category.{v_1, u_1} D] [HasWeakSheafify J D] {F P Q : Cᵒᵖ ⥤ D}
    (a : F ⟶ P) (hP : Presheaf.IsSheaf J P)
    (η : P ⟶ Q) (hQ : CategoryTheory.Presheaf.IsSheaf J Q) :
    sheafifyLift J (a ≫ η) hQ = sheafifyLift _ a hP ≫ η :=
  (sheafifyLift_unique _ _ _ _ (by simp)).symm
```
below `sheafifyMap_sheafifyLift` in `Mathlib.CategoryTheory.Sites.Sheafification`? Then this is
```suggestion
    rw [CategoryTheory.sheafifyLift_comp]
```

File: Mathlib/Topology/Sheaves/Functors.lean (hunk 2 above)
Comment (smorel394) [reply Mathlib/Topology/Sheaves/Functors.lean]: Done.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge
